US06335353B1
2-(1 ′-Methoxypropyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one
In an analogous procedure in the preparation of 2-methoxymethyl-3-benzyloxy-6-methyl-pyran-4(1 H)-one using 2-(1-hydroxypropyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one (5.48 g, 20 mmol, 1 eq.) yielded the title compound (5.2 g, 90.3%) as an orange oil which solidified on cooling. Recrystallisation from CH2Cl2/Pet. ether 40/60 afforded the pure product as a white crystalline solid. m.p. 63-65 ° C.

reactant | 2-methoxymethyl-3-benzyloxy-6-methyl-pyran-4(1 H)-one | COCC=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C15H16O4
reactant | 2-(1-hydroxypropyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one | 20 mmol, 5.48 g, 1 eq. | OC(CC)C=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C16H18O4
product | 2-(1 ′-Methoxypropyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one | 5.2 g, 90.3% | COC(CC)C=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C17H20O4
